* Exporta dados pre-layout como CSV via print
Vref VDD 0 1.8V
Vin Vsensor 0 1.25V
C3 Vtop Vbot3 800f
C2 Vtop Vbot2 400f
C1 Vtop Vbot1 200f
C0 Vtop Vbot0 100f
Cterm Vtop Vbot_term 100f
Rleak Vtop 0 1T
.model SW_IDEAL SW(Ron=10 Roff=100G Vt=0.9 Vh=0.1)
Vsample_ctrl ctrl_sample 0 PWL(0 1.8V 1us 1.8V 1.01us 0V 10us 0V)
S1 Vtop 0 ctrl_sample 0 SW_IDEAL
Vb3 Vbot3 0 PWL(0 1.25V 1us 1.25V 1.01us 0V 2us 0V 2.01us 1.8V 10us 1.8V)
Vb2 Vbot2 0 PWL(0 1.25V 1us 1.25V 1.01us 0V 3us 0V 3.01us 1.8V 4us 1.8V 4.01us 0V 10us 0V)
Vb1 Vbot1 0 PWL(0 1.25V 1us 1.25V 1.01us 0V 4us 0V 4.01us 1.8V 10us 1.8V)
Vb0 Vbot0 0 PWL(0 1.25V 1us 1.25V 1.01us 0V 5us 0V 5.01us 1.8V 6us 1.8V 6.01us 0V 10us 0V)
Vbterm Vbot_term 0 PWL(0 1.25V 1us 1.25V 1.01us 0V 10us 0V)
.control
  tran 20n 7u
  set wr_vecnames
  set wr_singlescale
  wrdata pre_layout_data.csv V(Vtop)
.endc
.end
